*$
*//-----------------------------------------------------------------------//
*//   Part        : EMHL350ARA470MF61G
*//   Date        : 2022/06/01
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHL350ARA470MF61G_20deg-C 1 2

C1 4 2 2.71e-06
C2 5 2 1.28e-05
C3 6 2 2.70e-05
R1 3 4 4.67e-01
R2 4 5 1.34e-01
R3 5 6 4.82e-01
L1 1 3 2.80e-09

.ENDS
*$